US08124766B2
A mixture of trans-4-(4-{5-[(1-ethyl-4-methoxy-1H-indole-2-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carbonyl)-cyclohexanecarboxylic acid benzyl ester (30 mg, 0.05 mmol), 10% Pd/C (50 mg) in methanol (20 mL) was hydrogenated at 50 psi for 2 hr. The solution was filtered and the solvent was removed to afford the product, trans-4-(4-{5-[(1-ethyl-4-methoxy-1H-indole-2-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carbonyl)-cyclohexane carboxylic acid, as a green solid (10 mg, 40% yield). LCMS for C29H35N5O5 calcd. (m/e) 533, observed 534 (M+H).

reactant | trans-4-(4-{5-[(1-ethyl-4-methoxy-1H-indole-2-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carbonyl)-cyclohexanecarboxylic acid benzyl ester | 0.05 mmol, 30 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C1=NC=C(C=C1)NC(=O)C=1N(C2=CC=CC(=C2C1)OC)CC | C36H41N5O5
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | trans-4-(4-{5-[(1-ethyl-4-methoxy-1H-indole-2-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carbonyl)-cyclohexane carboxylic acid | C(C)N1C(=CC2=C(C=CC=C12)OC)C(=O)NC=1C=CC(=NC1)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C29H35N5O5
